US03931205
2.5 g of 2-(5H-[1]benzopyrano[2,3-b]pyridin-7-yl)acrylic acid is dissolved in 20 ml of 0.5 N aqueous sodium hydroxide soution, and 1 g of Raney nickel is added. The solution is stirred in a hydrogen stream at ordinary pressure and temperature until absorption of 230 ml of hydrogen is attained. The Raney nickel is removed by filtration, and the filtrate is neutralized with hydrochloric acid. The resulting crystalline precipitate is filtered off, washed with water, and recrystallized from aqueous dioxane to give 1.8 g of 2-(5H-[1]benzopyrano[2,3-b]pyridin-7-yl)propionic acid melting at 183°-184°C.

reactant | 2-(5H-[1]benzopyrano[2,3-b]pyridin-7-yl)acrylic acid | 2.5 g | N1=C2C(=CC=C1)CC1=C(O2)C=CC(=C1)C(C(=O)O)=C | C15H11NO3
reactant | hydrogen | [H][H] | H2
reactant | hydrogen | 230 ml | [H][H] | H2
solvent | sodium hydroxide | 0.5 N, 20 ml | [OH-].[Na+]
catalyst | Raney nickel | 1 g | [Ni] | Ni
product | 2-(5H-[1]benzopyrano[2,3-b]pyridin-7-yl)propionic acid | 1.8 g | N1=C2C(=CC=C1)CC1=C(O2)C=CC(=C1)C(C(=O)O)C | C15H13NO3
